US06888029B2
Preparation of N-(2-methoxyphenyl)-2-nitroaniline (4)
A solution of ligand 1 (see FIG. 1) [42 mg, 0.1 mmol (8.4 mg, 0.02 mmol, 4 mol % per reaction)] and NaOt-Bu [10 mg, 0.1 mmol (2 mg, 0.02 mmol, 4 mol % per reaction)] were stirred in 5 mL DME (anhy). After 10 minutes, 1 mL of the solution was added via syringe to a test tube containing (under an Argon atmosphere) Pd2(dba)3 (4.6 mg, 0.005 mmol, 2 mol % Pd), K3PO4 (148 mg, 0.7 mmol), 2-chloronitrobenzene (79 mg, 0.5 mmol), and o-anisidine (68 μL, 0.6 mmol). The test tube was capped (with a proper cap-no rubber septa) and heated at 100° C. for 18 hours. The reaction mixture was allowed to cool to r.t., diluted with ether and dodecane was added as an internal standard (the consumption of the aryl chloride was incomplete). The reaction mixture was purified by column chromatography (5% EtOAc/hexanes) to yield 100 mg (82% yield) of the product.

reactant | NaOt-Bu | 0.1 mmol, 10 mg | CC(C)(C)[O-].[Na+]
reactant | K3PO4 | 0.7 mmol, 148 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-chloronitrobenzene | 0.5 mmol, 79 mg | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | o-anisidine | 0.6 mmol, 68 μL | COC=1C(=CC=CC1)N | C7H9NO
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
solvent | dodecane | CCCCCCCCCCCC | C12H26
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-methoxyphenyl)-2-nitroaniline | 100 mg, 82% yield | COC1=C(C=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O3
